US03993679
4-Butyl-N,N'-(m-phenylene)dioxamic acid
Diethyl 4-butyl-N,N'-(m-phenylene)dioxamate (1.0 gm., 2.74 mmoles) is stirred at room temperature in 1.0 N NaOH (10 ml.) until the solution is complete. The solution is adjusted to pH 3 and the resulting white solid collected (0.5 gm., mp. 232°).

reactant | Diethyl 4-butyl-N,N'-(m-phenylene)dioxamate | 2.74 mmoles, 1.0 gm | CCCCN(C(C(=O)OCC)=O)C=1C=C(C=CC1)NC(C(=O)OCC)=O | C18H24N2O6
solvent | NaOH | 1.0 N, 10 ml | [OH-].[Na+]
product | 4-Butyl-N,N'-(m-phenylene)dioxamic acid | CCCCN(C(C(=O)O)=O)C=1C=C(C=CC1)NC(C(=O)O)=O | C14H16N2O6
